Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin / Iodine; Iodine Containing / Codeine
 
Attending: ___.
 
Chief Complaint:
sigmoid-vesicular fistula
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old Male Crohns of the colon and rectum, who presents 
with pneumatouria due to a ___ fistula at the 
sigmoid. Patient has had a similar fistula in the past, which 
was resected in the ___. He is currently being followed by 
Drs. ___ for his chron's and is undergoing 
medical management with Pentasa and Mercaptopurine. Other local 
surgeries have consisted of a ileal resection and a radical 
prostatectomy.

Patient states he was on his way to the gym to work out, and 
felt "something travelling down my penis" which he was concerned 
did not feel like urine. He states he always urinates prior to 
lifting weights as he often has mild incontinence when straining 
to lift. He urinated, but instead foamy bubbles came out. He 
notes this is similar but much more mild to his last vessicular 
fistula.

He denies any fever, chills or dysuria since the day prior to 
admission.
 
Past Medical History:
Crohn's Disease: s/p ileal resection, sigmoid resection
h/o ___ fistula
Prostate Cancer s/p radical prostatectomy
 
Social History:
___
Family History:
No family history of IBD, heart disease, diabetes or bowel 
cancers
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence, + pneumatouria
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 96.6, 130/78, 58, 97%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 08:55PM BLOOD WBC-5.1 RBC-3.97* Hgb-13.0* Hct-37.4* 
MCV-94# MCH-32.7* MCHC-34.7 RDW-13.7 Plt ___
___ 08:55PM BLOOD Neuts-72.8* Lymphs-16.2* Monos-6.7 
Eos-4.1* Baso-0.3
___ 08:55PM BLOOD ___ PTT-25.6 ___
___ 08:55PM BLOOD Glucose-100 UreaN-24* Creat-1.2 Na-140 
K-4.4 Cl-105 HCO3-27 AnGap-12
___ 09:04PM BLOOD Lactate-0.9
___ 11:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

CT ABDOMEN W/O CONTRAST  ___ 1:33 AM
IMPRESSION:
1. Small amount of air is noted within the bladder. Small 
tubular area of soft tissue density is rising from the dome of 
the bladder and is connecting to the sigmoid colon which might 
represent a sigmoid-vesicular fistula, however, the study was 
somewhat limited as no IV contrast was administered. If further 
evaluation is required, a fluoroscopic examination can be 
performed.
2. Status post prostatectomy.
3. Status post resection of the part of small bowel and the 
descending colon due to Crohn disease. No evidence of active 
Crohn disease is noted.
 
Brief Hospital Course:
1. ___ fistula due to Crohn's Disease
- Red Surgery was Consulted (Dr. ___ Surgeon)
- GI was Consulted (Dr. ___ GI)
- Pentasa, Mercaptopurine were continued
- Patient started on 10 days of ciprofloxacin/Flagyl
- Unclear if remicade would be optimum choice vs. watchful 
waiting vs. surgical repair, which will be addressed by Drs 
___ in the outpatient setting
- No signs of infection based on urine analysis, empiric 
antibiotics to both modulate crohn's and prevent UTI
- Surgical consult recommended foley catheter to be placed for 
decompression of the bladder, which was removed at time of 
discharge in consultation with surgery
 
Medications on Admission:
Lomotil ___ tab PO BID PRN
L-Arginine 1gram PO BID
Mercaptopurine 75mg PO Daily
Mesalamine SR 500mg BID
Vitamin C 500mg Daily
B-Complex Vitamins 1 Tab Daily (___)
Creatine 1 scoop daily
Ergocalciferol 1000units Daily
Ferrous Sulfate 325 PO Daily
MVI with Minerals Daily (multiple kinds)
Niacin 100mg Daily
Omega-3 Daily
Pyridoxine 100mg Daily
Selenium 200mcg Daily
Whey 9gram packet TID
 
Discharge Medications:
1. Diphenoxylate-Atropine 2.5-0.025 mg Tablet Sig: One (1) 
Tablet PO Q6H (every 6 hours) as needed.  
2. Mercaptopurine 50 mg Tablet Sig: 1.5 Tablets PO DAILY 
(Daily).  
3. Mesalamine 250 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO BID (2 times a day).  
4. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. B Complex Vitamins     Capsule Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
9. Niacin 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
11. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colovessicular Fistula
Crohn's Disease
 
Discharge Condition:
Good
 
Discharge Instructions:
Return to the hospital if you have fever/chills, inability to 
urinate, back pain, feces in the urine
 
Followup Instructions:
___